US06420359B1
2-Chloro-5,11-dihydro-11-ethyl-5-methyl-8-{2-{(1-oxido-5-quinolinyl)-oxy}ethyl}-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one
Diethyl azodicarboxylate (DEAD) (160 μL, 1.01 mmol) was added drop-wise to a solution of 2-chloro-5,11-dihydro-11-ethyl-8-(2-hydroxyethyl)-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one (225 mg, 0.68 mmol), 5-hydroxyquinoline (147 mg, 1.01 mmol) and Ph3P (266 mg, 1.01 mmol) in THF (3.4 mL) at room temperature. The mixture was stirred at room temperature for 3 h then was concentrated under reduced pressure. The residue was partially purified by flash chromatography (EtOAc:MeOH; 95:5). The fractions containing the 5-quinolinyloxy derivative were concentrated, dissolved in CH2Cl2 (2 mL) and THF (5 mL) and treated with mCPBA (80%, 248 mg, 1.15 mmol) at room temperature. The solution was stirred at room temperature for 2.5 h, then was concentrated under reduced pressure. The residue was dissolved in EtOAc (50 mL), washed successively with aqueous 10% Na2S2O3 (3×10 mL), aqueous saturated NaHCO3 (3×10 mL) and brine (10 mL), then was dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (EtOAc:MeOH, 95:5 to CH2Cl2:MeOH, 9:1) to give the title compound (113 mg, 35% yield for 2 steps) as a white solid: MS (ESI) m/z 476/478 (MH)+.

reactant | Diethyl azodicarboxylate | 1.01 mmol, 160 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-chloro-5,11-dihydro-11-ethyl-8-(2-hydroxyethyl)-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 0.68 mmol, 225 mg | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCO)=O)C | C16H17ClN4O2
reactant | 5-hydroxyquinoline | 1.01 mmol, 147 mg | OC1=C2C=CC=NC2=CC=C1 | C9H7NO
reactant | Ph3P | 1.01 mmol, 266 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | mCPBA | 1.15 mmol, 248 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | THF | 3.4 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-Chloro-5,11-dihydro-11-ethyl-5-methyl-8-{2-{(1-oxido-5-quinolinyl)-oxy}ethyl}-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one | 113 mg, 35% yield | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCOC3=C1C=CC=[N+](C1=CC=C3)[O-])=O)C | C25H22ClN5O3
